US08808703B2
Step 2: diethyl 2-(2-(2-(2-iodoethoxy)ethoxy)ethoxy)ethylphosphonate
1-iodo-2-(2-(2-(2-iodoethoxy)ethoxy)ethoxy)ethane (1 eq) was mixed with triethyl phosphate (1 eq) then heated to 160° C. for 20 minutes by microwave. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH/DCM to give the product as a yellow oil.

reactant | 1-iodo-2-(2-(2-(2-iodoethoxy)ethoxy)ethoxy)ethane | 1 eq | ICCOCCOCCOCCI | C8H16I2O3
reactant | triethyl phosphate | 1 eq | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | diethyl 2-(2-(2-(2-iodoethoxy)ethoxy)ethoxy)ethylphosphonate | ICCOCCOCCOCCP(OCC)(OCC)=O | C12H26IO6P
